US06340759B1
(259-6) 7-(4-Ethylpiperazin-1-yl)-5-(4-methoxyphenyl)thieno[2,3-c]pyridine
5-(4-Methoxyphenyl)thieno[2,3-c]pyridine-6-oxide (3.0 g) was reacted with phosphorus oxychloride (15 ml) at 100° C. for 3 hr. The reaction mixture was poured into ice-water, neutralized with sodium carbonate and extracted with ethyl acetate. The organic layer was washed with water and brine and dried. The extract was filtered through silica gel, and the column was washed with ethyl acetate. The filtrates were combined and concentrated. The resulting 7-chloro-5-(4-methoxyphenyl)thieno[2,3-c]pyridine (2.1 g) was reacted reacted in N-ethylpiperazine (5 ml) and dimethyl sulfoxide (20 ml) with potassium carbonate (5.0 g) at 100° C. for 1 day. The reaction solution was evaporated, and the resulting residue was partitioned between ethyl acetate and water and extracted with ethyl acetate. The organic layer was washed with water and dried. Then, the solvent was removed, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 0.93 g of the title compound of as a pale brown oil.

reactant | 5-(4-Methoxyphenyl)thieno[2,3-c]pyridine-6-oxide | 3.0 g | COC1=CC=C(C=C1)C=1C=C2C(=C[N+]1[O-])SC=C2 | C14H11NO2S
reactant | phosphorus oxychloride | 15 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethylpiperazine | 5 ml | C(C)N1CCNCC1 | C6H14N2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 7-(4-Ethylpiperazin-1-yl)-5-(4-methoxyphenyl)thieno[2,3-c]pyridine | 0.93 g | C(C)N1CCN(CC1)C=1N=C(C=C2C1SC=C2)C2=CC=C(C=C2)OC | C20H23N3OS
